US08211908B2
To a solution of 0.14 g of 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one in 4 mL of ethyl acetate, 1 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution was added, and the mixture was stirred at room temperature for 20 minutes. The solvent was distilled off under reduced pressure, diethyl ether was added to the resultant residue, and the solid was filtered off to obtain 0.10 g of 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.14 g | O1CCOC=2C=NC(=CC21)CNCC2CN(CCC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C24H28FN5O3
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 0.10 g | Cl.O1CCOC=2C=NC(=CC21)CNCC2CN(CCC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C24H28FN5O3.ClH/c25-18-10-21-20(28-13-18)3-4-24(31)30(21)7-6-29-5-1-2-17(16-29)12-26-14-19-11-22-23(15-27-19)33-9-8-32-22;/h3-4,10-11,13,15,17,26H,1-2,5-9,12,14,16H2;1H
